US07465726B2
{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-piperidin-1-ylmethylcyclopropyl)-methanone
To a solution of {4-[4-(benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-hydroxymethylcyclopropyl)-methanone (23.0 mg, 0.05 mmol) in N,N-dimethylformamide (1 mL) were added N,N-diisopropylethylamine (0.05 mL, 0.3 mmol) and methanesulfonic anhydride (11 mg, 0.06 mmol). The resulting mixture was stirred at rt overnight. LC-MS showed the reaction produced the desired product, but there was still 70% SM, another 1.2 eq. of methanesulfonic anhydride was added. 2 h later, LC-MS showed the reaction was complete. To the reaction mixture was added piperidine (0.05 mL, 0.5 mmol), and the resulting mixture was stirred at rt overnight. LC-MS showed the reaction was complete. The mixture was diluted with MeOH (1 mL) and purified by mass-directed purification to give the title compounds as an off-white solid. LC-MS (ES, Pos.): 514 [MH+]. 1H NMR (CD3OD, 400 MHz): δ=0.76 (s, 2H), 0.99 (s, 2H), 1.41-1.54 (m, 6H), 2.42-2.69 (m, 8H), 3.99 (m, 2H), 4.23 (m, 1H), 4.50 (m, 1H), 6.35 (s, 1H), 6.73 (s, 1H), 7.78 (dd, J=8.9 Hz, 2.1 Hz, 1H), 8.01 (d, J=8.9 Hz, 1H), 8.29 (s, 1H), 8.74 (d, J=2.1 Hz, 1H), 9.12 (s, 1H).

reactant | {4-[4-(benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-hydroxymethylcyclopropyl)-methanone | 0.05 mmol, 23.0 mg | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)C1(CC1)CO | C23H22N6O2S
reactant | N,N-diisopropylethylamine | 0.3 mmol, 0.05 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonic anhydride | 0.06 mmol, 11 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | {4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-piperidin-1-ylmethylcyclopropyl)-methanone | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)C1(CC1)CN1CCCCC1 | C28H31N7OS
